US08541411B2
e) 4-(7-methoxy-2-methyl-3H-benzo[d]imidazol-5-yl)morpholine
To a refluxing solution of combined batches of N-(2-methoxy-4-morpholino-6-nitrophenyl)acetamide (2.06 g) in HOAc (60 mL) was added iron powder (1.18 g) and the mixture was stirred at reflux temperature overnight. It was cooled to room temperature and filtered. The filtrate was concentrated in-vacuo and the residue was washed with EtOAc:petroleum ether=1:1 to afford crude product as a solid (1.73 g, 100%). 1H NMR (300 MHz, DMSO-d6) δ ppm 2.56 (s, 3H), 3.12 (t, 4H, J=4.8 Hz), 3.88 (t, 4H, J=4.8 Hz), 3.94 (s, 3H), 6.39 (s, 1H), 6.62 (s, 1H); LC-MS: m/e=248 [M+1]+

reactant | N-(2-methoxy-4-morpholino-6-nitrophenyl)acetamide | 2.06 g | COC1=C(C(=CC(=C1)N1CCOCC1)[N+](=O)[O-])NC(C)=O | C13H17N3O5
solvent | HOAc | 60 mL | CC(=O)O | C2H4O2
catalyst | iron | 1.18 g | [Fe] | Fe
product | 4-(7-methoxy-2-methyl-3H-benzo[d]imidazol-5-yl)morpholine | 1.73 g, 100% | COC1=CC(=CC2=C1N=C(N2)C)N2CCOCC2 | C13H17N3O2
